US04402729
Preparation of N-(1,3-Dioxolan-2-ylmethyl)-2-[2-nitro-5-(2-Chloro-4-trifluoromethylphenoxy)phenoxy]butyramide
N-(1,3-Dioxolan-2-ylmethyl)amine (0.015 mole) triethylamine (5 ml) and methylene chloride (50 ml) are charged into a glass reaction vessel equipped with a mechanical stirrer, thermometer and addition funnel. The reaction mixture is cooled to about -15° C. and a solution of 2-[2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenoxy]butanoyl chloride (0.01 mole) in methylene chloride (50 ml) is added dropwise with stirring. After the addition is completed the reaction mixture is allowed to warm to room temperature with continued stirring. After this time the mixture is transferred to a separatory funnel and is washed with water and dilute aqueous sodium bicarbonate. The washed solution is then dried, filtered and stripped of solvent leaving a residue. The residue is then recrystallized from a toluene/hexane mixture to yield the desired product N-(1,3-dioxolan-2-ylmethyl)-2-[2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenoxy]butyramide.

reactant | N-(1,3-Dioxolan-2-ylmethyl)amine | 0.015 mole, 5 ml | O1C(OCC1)CN | C4H9NO2
reactant | 2-[2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenoxy]butanoyl chloride | 0.01 mole | [N+](=O)([O-])C1=C(OC(C(=O)Cl)CC)C=C(C=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl | C17H12Cl2F3NO5
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-(1,3-dioxolan-2-ylmethyl)-2-[2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenoxy]butyramide | O1C(OCC1)CNC(C(CC)OC1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)[N+](=O)[O-])=O | C21H20ClF3N2O7
